US07645780B2
Preparation of [(1S,2R) N-[3-[3-Bromo-5-(2,2-dimethyl-propyl)-benzylamino]-1-(3,5-difluoro-benzyl)-2-hydroxy-propyl]-acetamide] (90)
To dibromobenzylamine (1S,2R) N-[3-(2,5-Dibromo-benzylamino)-1-(3,5-difluoro-benzyl)-2-hydroxy-propyl]-acetamide (0.504 g, 1.0 mM, 1 eq) was added 0.5 M THF solution of neopentylzinc iodide (20 mL, 10 eq) and 0.082 g, (0.1 mM, 0.1 eq) of [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II), complex with dichloromethane (Pd(dppf)Cl2 CH2Cl2). A reaction mixture was stirred overnight at room temperature. The reaction was quenched with a saturated aqueous solution of NH4Cl (20 mL) and extracted with ethyl acetate (3×30 mL). Combined organic layers were washed with brine, dried and concentrated.

reactant | dibromobenzylamine (1S,2R) N-[3-(2,5-Dibromo-benzylamino)-1-(3,5-difluoro-benzyl)-2-hydroxy-propyl]-acetamide | 1.0 mM, 0.504 g, 1 eq | BrC1=C(CNC[C@H]([C@H](CC2=CC(=CC(=C2)F)F)NC(C)=O)O)C=C(C=C1)Br.BrN(CC1=CC=CC=C1)Br
reactant | THF | 0.5 M | C1CCOC1 | C4H8O
reactant | neopentylzinc iodide | 20 mL, 10 eq | [I-].C(C(C)(C)C)[Zn+]
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) | 0.1 mM, 0.1 eq | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | dichloromethane | ClCCl | CH2Cl2
product | (1S,2R) N-[3-[3-Bromo-5-(2,2-dimethyl-propyl)-benzylamino]-1-(3,5-difluoro-benzyl)-2-hydroxy-propyl]-acetamide | BrC=1C=C(CNC[C@H]([C@H](CC2=CC(=CC(=C2)F)F)NC(C)=O)O)C=C(C1)CC(C)(C)C | C24H31BrF2N2O2
